US08067445B2
Step 2: 4-Bromo-2-bromomethyl-1-fluoro-benzene
To (5-bromo-2-fluoro-phenyl)-methanol (1.2 g, 5.9 mmol) in DME (20 mL) was added phosphorus tribromide (0.83 mL, 8.8 mmol), and the reaction was stirred at room temperature for 6 hours. The mixture was cooled to 0° C. and adjusted to pH 6 with saturated aqueous NaHCO3. The solution was extracted with EtOAc, and the combined organic layers were dried, concentrated, and purified by silica gel chromatography to give the title compound.

reactant | (5-bromo-2-fluoro-phenyl)-methanol | 5.9 mmol, 1.2 g | BrC=1C=CC(=C(C1)CO)F | C7H6BrFO
reactant | phosphorus tribromide | 8.8 mmol, 0.83 mL | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 4-Bromo-2-bromomethyl-1-fluoro-benzene | BrC1=CC(=C(C=C1)F)CBr | C7H5Br2F
